US04889851
To a solution of 4-acetylamino-2-nitro-N-(4-chlorophenyl)benzenesulfonamide (4.85 g) in ethyl acetate (485 ml) was added 10% palladium on carbon, and the mixture was hydrogenated at room temperature under atmospheric pressure for seven hours. The catalyst was removed by filtration and the solvent was evaporated under reduced pressure. The residue was triturated with diisopropyl ether and collected by filtration to give 4-acetylamino-2-amino-N-(4-chlorophenyl)benzenesulfonamide as colorless powder (4.76 g).

reactant | 4-acetylamino-2-nitro-N-(4-chlorophenyl)benzenesulfonamide | 4.85 g | C(C)(=O)NC1=CC(=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)Cl)[N+](=O)[O-] | C14H12ClN3O5S
solvent | ethyl acetate | 485 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | 4-acetylamino-2-amino-N-(4-chlorophenyl)benzenesulfonamide | 4.76 g | C(C)(=O)NC1=CC(=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)Cl)N | C14H14ClN3O3S
